US04517187
To a stirred solution is cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride (7.0 g, 0.20 m) and triethylamine (8.4 g, 0.08 m) in chloroform (100 ml) maintained at 0° under nitrogen was added dropwise propionyl chloride (2.9 g, 0.031 m). The mixture was allowed to warm to ambient temperature and stirred for 16 hours, then treated with 10% HCl (50 ml). The layers were separated and the organic phase washed with 10% HCl (2×50 ml), water (50 ml), and dried over MgSO4. Evaporation of the solvent gave a solid residue, which was slurred with ether and filtered to give 2.1 g cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2-propionyl-2H-pyrazino[2,1-a]isoquinoline, m.p. 250°-251° . An additional 3.2 g of good purity product was recovered from the ether to give a total of 5.3 g (82%).

reactant | cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 7.0 g | Cl.Cl.C1(=CC=CC=C1)[C@@H]1CN2[C@H](C3=CC=CC=C13)CNCC2
reactant | triethylamine | 8.4 g | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 2.9 g | C(CC)(=O)Cl | C3H5ClO
reactant | HCl | 50 ml | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2-propionyl-2H-pyrazino[2,1-a]isoquinoline | 2.1 g | C1(=CC=CC=C1)[C@@H]1CN2[C@H](C3=CC=CC=C13)CN(CC2)C(CC)=O | C21H24N2O
